US09353082B2
4-Phenyl-1H-1,2,3-triazole (ring synthesis)
To a stirred solution of phenylacetylene (1.098 ml, 10 mmol) in abs. toluene (10 ml) was added azidotrimethylsilane (2.65 ml, 20.00 mmol) in one portion. The reaction was heated at 100° C. for 3 days, whereupon was cooled to room temperature and toluene was removed by vacuum. The residue was partitioned between DCM and water. The organic phase was dried over MgSO4 and filtered. After evaporation the crude product was chromatographed in petroleumether:EtOAc=2:1. (Yield: 355 mg, 24%).

reactant | phenylacetylene | 10 mmol, 1.098 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | azidotrimethylsilane | 20.00 mmol, 2.65 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Phenyl-1H-1,2,3-triazole | C1(=CC=CC=C1)C=1N=NNC1 | C8H7N3
